US07557131B2
Preparation 49: tert-Butyl 4-[methyl(pyridin-2-yl)amino]piperidine-1-carboxylate
A mixture of tert-butyl 4-(methylamino)piperidine-1-carboxylate (WO 03/089412, p22), (2 g, 9.33 mmol), 2-bromopyridine (1.35 mL, 13.99 mmol) and N,N-diisopropylethylamine (2.5 mL, 13.99 mmol) was heated at 130° C. for 3 hours. Potassium carbonate (2 g, 14 mmol) was added and the reaction mixture was heated at 130° C. for a further 8 hours. 2-Bromopyridine (1 mL, 10.36 mmol) was then added to the mixture and heating continued at 130° C. for 36 hours. The reaction mixture was then cooled and partitioned between ethyl acetate (30 mL) and water (15 mL). The organic layer was separated and extracted with saturated citric acid solution (2×15 mL), and the combined aqueous solution was basified with sodium hydrogen carbonate and extracted with dichloromethane (2×30 mL). The combined organic solution was dried over magnesium sulfate, concentrated in vacuo and the residue was purified by column chromatography on silica gel, eluting with ethyl acetate:pentane, 0:100 to 50:50, to afford the title compound in 24% yield, 646 mg. 1H NMR(CDCl3, 400 MHz) δ: 1.45(s, 9H), 1.55-1.70(m, 4H), 2.78-2.90(m, 5H), 4.10-4.30(m, 2H), 4.65-4.80(m, 1H), 6.45-6.55(m, 2H), 7.40-7.45(m, 1H), 8.10-8.15(m, 1H); LRMS APCI m/z 292 [M+H]+

reactant | tert-butyl 4-(methylamino)piperidine-1-carboxylate | 9.33 mmol, 2 g | CNC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 2-bromopyridine | 13.99 mmol, 1.35 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | N,N-diisopropylethylamine | 13.99 mmol, 2.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Potassium carbonate | 14 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromopyridine | 10.36 mmol, 1 mL | BrC1=NC=CC=C1 | C5H4BrN
product | tert-Butyl 4-[methyl(pyridin-2-yl)amino]piperidine-1-carboxylate | 24% yield | CN(C1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C16H25N3O2
